US04761410
To a solution of 2-(2-aminothiazol-4-yl)-2-difluoromethoxyiminoacetic acid (syn isomer) (948 mg) in N,N-dimethylformamide (20 ml) were added diisopropylethylamine (1.04 g) and mesyl chloride (920 mg) at -50° C., and the mixture was stirred for 30 minutes at the same temperature. On the other hand, a mixture of 7-amino-3-hydroxymethyl-3-cephem-4-carboxylic acid (1.0 g), N-trimethylsilylacetamide (16 g) and tetrahydrofuran (32 ml) was stirred for one hour at room temperature, cooled to -45° C. and added all at once to the above obtained activated acid solution, and the mixture was stirred for 2 hours at -40° to -30° C. The reaction mixture was poured into a solution of sodium bicarbonate (1.68 g) in water (100 ml) and the mixture was washed with ethyl acetate (50 ml). The aqueous solution was adjusted to pH 3-4 with 10% hydrogen chloride, salted out and extracted twice with a mixture of tetrahydrofuran (50 ml) and ethyl acetate (50 ml). The extract was washed three times with an aqueous solution of sodium chloride and dried over magnesium sulfate. To the extract was added a solution of sodium 2-ethylhexanoate (0.66 g) in ether (25 ml) and the resulting precipitates were collected by filtration to give sodium 7-[2-(2-aminothiazol-4-yl)-2-difluoromethoxyiminoacetamido]-3-hydroxymethyl-3-cephem-4-carboxylate (syn isomer) (0.73 g).

reactant | 2-(2-aminothiazol-4-yl)-2-difluoromethoxyiminoacetic acid | 948 mg | NC=1SC=C(N1)C(C(=O)O)=NOC(F)F | C6H5F2N3O3S
reactant | diisopropylethylamine | 1.04 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | mesyl chloride | 920 mg | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | 7-amino-3-hydroxymethyl-3-cephem-4-carboxylic acid | 1.0 g | NC1[C@@H]2N(C(=C(CS2)CO)C(=O)O)C1=O | C8H10N2O4S
reactant | N-trimethylsilylacetamide | 16 g | C[Si](NC(C)=O)(C)C | C5H13NOSi
reactant | sodium bicarbonate | 1.68 g | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 32 ml | O1CCCC1 | C4H8O
product | sodium 7-[2-(2-aminothiazol-4-yl)-2-difluoromethoxyiminoacetamido]-3-hydroxymethyl-3-cephem-4-carboxylate | 0.73 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CO)C(=O)[O-])C1=O)=NOC(F)F.[Na+] | InChI=1S/C14H13F2N5O6S2.Na/c15-13(16)27-20-6(5-3-29-14(17)18-5)9(23)19-7-10(24)21-8(12(25)26)4(1-22)2-28-11(7)21;/h3,7,11,13,22H,1-2H2,(H2,17,18)(H,19,23)(H,25,26);/q;+1/p-1/t7?,11-;/m1./s1
